US05637593
5-Bromo-1-triisopropylsilylindole (6.74 g) was dissolved in tetrahydrofuran (100 ml) cooled (CO2 /acetone) and tert butyl lithium (40 ml, 1.7M in pentane) added over 30 minutes. Stirring of the deep yellow solution was continued for a further 1 hour, diphenyl disulphide (21 g) in tetrahydrofuran (30 ml) added, the mixture warmed to room temperature overnight, tetrabutylammonium fluoride (50 ml, 1M in tetrahydrofuran) added and stirring continued for a further 2 hours. Water (200 ml) was added and the mixture extracted with diethyl ether (3×100 ml). The combined organic phase was washed with brine (100 ml) dried (MgSO4) and the solvent removed at reduced pressure. The residue was column chromatographed (silica gel, hexane/diethyl ether 0-40% eluant) appropriate fractions combined, solvent removed and the residue recrystallised from hexane/diethyl ether to give 5-phenylthioindole (2.21 g) m.p.97°-99° C.

reactant | 5-Bromo-1-triisopropylsilylindole | 6.74 g | BrC=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C | C17H26BrNSi
reactant | CO2 acetone | C(=O)=O.CC(=O)C
reactant | tert butyl lithium | 1.7M, 40 ml | C(C)(C)(C)[Li]
reactant | diphenyl disulphide | 21 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | tetrabutylammonium fluoride | 1M, 50 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | Water | 200 ml | O | H2O
product | 5-phenylthioindole | 2.21 g | C1(=CC=CC=C1)SC=1C=C2C=CNC2=CC1 | C14H11NS
